* EML current-mode cell v1 (topology per ../cell_topology.md)
* Real sky130 NPNs for exp and ln; BEHAVIORAL linear glue (I->V sense,
* floating level shift, opamps, current copies) -- v1 tests the
* translinear core and unit conventions, not the CMOS around it.
*
* Value convention: 1 EML unit = I_UNIT = 1 uA. Input currents iu, iv
* in units; output current in units at node "out" (held at 0 V).
* Ideal target: I_out/I_UNIT = exp(iu) - ln(iv).
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param iunit=1u
.param nvt=26.9m      ; n*VT at 27C, n=1.04
.param usig=0.0       ; exp-path input, units
.param vsig=1.0       ; ln-path input, units (must be > 0)

VDD vdd 0 3.3

* ---- exp path: reference transdiode at I_UNIT + level-shifted pair ----
IR1 vdd nb0 {iunit}
XQR nb0 nb0 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00     ; sets Vref = VBE(I_UNIT)
* input current -> sense voltage u*nVT (behavioral I->V, R_e = nVT/I_UNIT)
IU  0 nu {usig*iunit}
RU  nu 0 {nvt/iunit}
* floating level shift: Vb2 = Vref + u*nVT  (real cell: buffered resistor)
EU  nb2 nb0 nu 0 1.0
XQ2 nc2 nb2 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00
VC2 vdd nc2 0                                          ; IC2 = I_UNIT*e^u

* ---- ln path: differential transdiode log amps (signal vs reference) ----
IV  0 nva {vsig*iunit}
XQA nva 0 oa 0 sky130_fd_pr__npn_05v5_W1p00L1p00
EOA oa 0 VALUE = {max(min(-2e5*V(nva), 1.6), -1.6)}
IVR 0 nvb {iunit}
XQB nvb 0 ob 0 sky130_fd_pr__npn_05v5_W1p00L1p00
EOB ob 0 VALUE = {max(min(-2e5*V(nvb), 1.6), -1.6)}
* oa - ob = -nVT*ln(v)  ->  I_ln = I_UNIT*ln(v)

* ---- output node: KCL sum of exp copy minus ln term (ideal copies) ----
FEXP out 0 VC2 1.0                                     ; +I_UNIT*e^u
GLN  out 0 VALUE = {iunit*(V(oa)-V(ob))/nvt}           ; -I_UNIT*ln(v)
VOUT out 0 0                                           ; virtual gnd, meas

.control
set filetype=ascii
* sweep u at several fixed v
foreach v 0.2 1.0 5.0
  alterparam vsig = $v
  reset
  dc IU -3u 3.4u 0.05u
  wrdata cell_u_v{$v}.csv i(VOUT)
  destroy all
end
* sweep v at u = 0
alterparam vsig = 1.0
reset
dc IV 0.05u 30u 0.1u
wrdata cell_vsweep.csv i(VOUT)
echo CELL_DONE
.endc
.end
