* EML cell v2a: log amps now REAL (5T OTA + transdiode at VREFB=1.2V
* single-supply); exp path and output copies still behavioral glue.
* Conformity target: match v1b (exp -0.2..-4%, ln <=0.11 units).
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param iunit=0.5u
.param nvt=26.9m
.param usig=0.0
.param vsig=1.0

.subckt ota5t inp inn out vdd
ITAIL vdd ntail 4u
XMP1 n1  inp ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=1
XMP2 out inn ntail vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=1
XMN1 n1  n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
XMN2 out n1 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=2
.ends

VDD vdd 0 3.3
VRB vrefb 0 1.2

* ---- exp path (unchanged v1b) ----
IR1 vdd nb0 {iunit}
* ----------------------------------------------------------------------
* mult=8 ON THE X-CARD(S) BELOW IS INERT -- IT IS NOT A DEVICE MULTIPLIER.
* ngspice SILENTLY ignores `mult=` on a subcircuit call; only `m=` works.
* Measured 2026-08-16, one sky130_fd_pr__npn_05v5_W1p00L1p00 at Vc=1.0 /
* Vb=0.75, .op, collector current vs the un-annotated card:
*     mult=8 -> ratio 1.000000   (ignored, and with NO warning printed)
*     m=8    -> ratio 8.000000   (honoured)
* So every number ever produced in this tree was computed with 1x
* transdiodes, not 8x.
*
* DO NOT "FIX" THIS TO m=8.  The LAYOUT is 1x per transdiode too:
* char/emlcell_b_sim12.inc -- the netlist that LVS-matches the shipped
* layout/emlcell2.gds -- carries these same NPNs with no multiplier at
* all.  Simulation and silicon therefore AGREE today, and there is no bug
* to fix.  Changing mult= to m= here would CREATE an 8x sim/silicon
* mismatch that does not currently exist.  The annotation records an
* INTENT that reached neither the netlist nor the mask; if 8x is wanted,
* change the LAYOUT first and the netlist with it.
* ----------------------------------------------------------------------
XQR nb0 nb0 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
IU  0 nu {usig*iunit}
RU  nu 0 {nvt/iunit}
BU  nb2 0 V = {V(nb0) + V(nu)}
XQ2 nc2 nb2 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
VC2 vdd nc2 0

* ---- ln path: REAL log amps, base-driven transdiode (emitter gnd) ----
* OTA drives the BASE; the BJT collector sinks the input current itself;
* OTA only supplies IB < 1 uA. V_ln = VBE (0.55-0.85V, mid OTA range).
IV  0 nva {vsig*iunit}
XQA nva oa 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
XOA vrefb nva oa vdd ota5t
IVR 0 nvb {iunit}
XQB nvb ob 0 0 sky130_fd_pr__npn_05v5_W1p00L1p00 mult=8
XOB vrefb nvb ob vdd ota5t

* ---- output (behavioral copies, as v1b) ----
FEXP out 0 VC2 1.0
GLN  out 0 VALUE = {iunit*(V(ob)-V(oa))/nvt}
VOUT out 0 0

.control
set filetype=ascii
alterparam vsig = 1.0
reset
dc IU -1.5u 1.7u 0.025u
wrdata v2a_usweep.csv i(VOUT)
destroy all
dc IV 0.05u 30u 0.1u
wrdata v2a_vsweep.csv i(VOUT)
echo V2A_DONE
.endc
.end
